US05173489
To stirred mixture of 2-indanone (2.64 g, 0.02 mol), 4-picolyl chloride hydrochloride (7.22 g, 0.044 mol), and benzyltriethylammonium chloride (0.45 g, 0.002 mol) in 100 ml of benzene was added 1N sodium hydroxide (84 ml, 0.084 mol) dropwise over a period of 30 min. The mixture was stirred for an additional 2.5 h. at room temperature, then heated to 60° and maintained at this temperature for 1 h. Thin layer chromatographic analysis indicated that the reaction was complete. The reaction mixture was cooled, the organic layer was separated, and diluted with an additional 80 ml of benzene. The benzene solution was extracted with 100 ml of 1N HCl. The acidic layer was basified with 10% sodium hydroxide, wherein the crude product separated as a gum. The crude material was crystallized from cyclohexane, and further purified by recrystallization from cyclohexane to give 1,1-bis(4-pyridinylmethyl)-1,3-dihydro-2H-indene-2-one as a white solid, 0.300 g, m.p. 95°-96°. NMR (200 MHz, CDCl3) δ2.66 (s, 2H); 3.07-3.34 (d, 4H); 6.73 (d, 4H); 6.82-7.47 (m, 4H). IR (nujol) 1714 cm-1. Analysis. Calcd. for C21H18N2O: C, 80.23; H, 5.77; N, 8.91. Found: C, 80.47; H, 5.76; N, 8.89.

reactant | 2-indanone | 0.02 mol, 2.64 g | C1C(CC2=CC=CC=C12)=O | C9H8O
reactant | 4-picolyl chloride hydrochloride | 0.044 mol, 7.22 g | Cl.N1=CC=C(C=C1)CCl
reactant | sodium hydroxide | 0.084 mol, 1N, 84 ml | [OH-].[Na+]
catalyst | benzyltriethylammonium chloride | 0.002 mol, 0.45 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 1,1-bis(4-pyridinylmethyl)-1,3-dihydro-2H-indene-2-one | N1=CC=C(C=C1)CC1(C(CC2=CC=CC=C12)=O)CC1=CC=NC=C1 | C21H18N2O
